US03959266
By operating under the same conditions, but substituting 132 mg of 2,6-lutidine hydrochloride, 165 mg of quinoline hydrochloride and, respectively, 169 mg of 1,2,3,4-tetrahydroquinoline hydrochloride for pyridine hydrochloride, there is obtained 600 mg (25%) 560 mg (24%) and, respectively, 780 mg (33%) of pure product.

reactant | quinoline hydrochloride | 165 mg | Cl.N1=CC=CC2=CC=CC=C12
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 1,2,3,4-tetrahydroquinoline hydrochloride | 169 mg | Cl.N1CCCC2=CC=CC=C12 | InChI=1S/C9H11N.ClH/c1-2-6-9-8(4-1)5-3-7-10-9;/h1-2,4,6,10H,3,5,7H2;1H
